US07973114B2
2.2. Preparation of (3-(2-pyridyl-1-methylethyl)indenyl)chromium dichloride
A solution of 0.54 g (0.0023 mol) of [2-(1H-inden-3-yl)-1-methylethyl]pyridine in 20 ml of tetrahydrofuran was cooled to −100° C. 1.72 ml of a 15% strength n-butyllithium solution in hexane (0.0027 mol) were slowly added dropwise. After the addition was complete, the reaction mixture was stirred at −100° C. for a further 30 minutes. The mixture was subsequently allowed to warm to room temperature. After stirring for a further 1 hour, the solution was cooled to −60° C. and 1.1 g (0.0029 mol) of chromium trichloride tris(tetrahydrofuran) were added while stirring. The mixture was allowed to warm slowly to room temperature and was subsequently stirred at room temperature for a further 10 hours. The reaction mixture was then refluxed for 20 minutes and subsequently cooled to room temperature. The solid which had precipitated was filtered off, washed with diethyl ether and dried under reduced pressure. This gave 0.3 g of (3-(2-pyridyl-1-methylethyl)indenyl)chromium dichloride (37%).

reactant | [2-(1H-inden-3-yl)-1-methylethyl]pyridine | 0.0023 mol, 0.54 g | C1C=C(C2=CC=CC=C12)CC(C)C1=NC=CC=C1 | C17H17N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.0027 mol | CCCCCC | C6H14
reactant | chromium trichloride tris(tetrahydrofuran) | 0.0029 mol, 1.1 g | O1CCCC1.O1CCCC1.O1CCCC1.[Cl-].[Cl-].[Cl-].[Cr+3]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3-(2-pyridyl-1-methylethyl)indenyl)chromium dichloride | [Cl-].[Cl-].N1=C(C=CC=C1)C(C)(C)C1=CC(C2=CC=CC=C12)[Cr+2] | InChI=1S/C17H16N.2ClH.Cr/c1-17(2,16-9-5-6-12-18-16)15-11-10-13-7-3-4-8-14(13)15;;;/h3-12H,1-2H3;2*1H;/q;;;+2/p-2
